US04374984
78 g of 4,4'-bis-(2-chloro-2-methyl-propanoyl)-benzophenone is boiled with 250 ml of morpholine for 15 hours. The excess morpholine is then distilled off under reduced pressure and the residue is crystallized from ethanol. 4,4'-bis-(2-Morpholino-2-methyl-propanoyl)-benzophenone is obtained; m.p. 145°-147°.

reactant | 4,4'-bis-(2-chloro-2-methyl-propanoyl)-benzophenone | 78 g | ClC(C(=O)C1=CC=C(C(=O)C2=CC=C(C=C2)C(C(C)(Cl)C)=O)C=C1)(C)C | C21H20Cl2O3
reactant | morpholine | 250 ml | N1CCOCC1 | C4H9NO
product | 4,4'-bis-(2-Morpholino-2-methyl-propanoyl)-benzophenone | O1CCN(CC1)C(C(=O)C1=CC=C(C(=O)C2=CC=C(C=C2)C(C(C)(N2CCOCC2)C)=O)C=C1)(C)C | C29H36N2O5
